US07732460B2
(i) 8-Bromo-7-chloro-2-(methyloxy)-1,5-naphthyridine
To a solution of 3-chloro-6-(methyloxy)-1,5-naphthyridin-4(1H)-one (3-chloro-6-(methoxy)-1,5-naphthyridin-4-ol, for a synthesis see WO2004058144, Example 1(a)) (43 g, 204.8 mmol) in N,N-dimethylformamide (500 ml) at 0° C. was added phosphorous tribromide dropwise (23.3 ml, 245.8 mmol). The reaction mixture was then stirred at 10° C. for 0.5 hour and then at 25° C. for 1 hour. The mixture was then poured onto 1600 ml of water and basified to pH 7 with potassium carbonate. The solid formed was filtered off, washed with water and dried in vacuo to afford the desired compound (51 g, 91%).

reactant | 3-chloro-6-(methyloxy)-1,5-naphthyridin-4(1H)-one | ClC1=CNC2=CC=C(N=C2C1=O)OC | C9H7ClN2O2
reactant | 3-chloro-6-(methoxy)-1,5-naphthyridin-4-ol | ClC=1C=NC2=CC=C(N=C2C1O)OC | C9H7ClN2O2
reactant | phosphorous tribromide | P(Br)(Br)Br | Br3P
reactant | water | 1600 ml | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 8-Bromo-7-chloro-2-(methyloxy)-1,5-naphthyridine | 51 g, 91% | BrC=1C(=CN=C2C=CC(=NC12)OC)Cl | C9H6BrClN2O
